US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (2-amino-ethyl)-amide (I-71)
To a mixture of (2-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester (I-71-a) (0.18 mmol) in 1:1 mixture of CH2Cl2:MeOH (4 mL) was added 4M HCl in dioxane (2 mL). The mixture stirred overnight and was concentrated. The mixture was purified by C-18 RP LC-MS chromatography to give I-71 (17%): HRMS Calcd. for C23H24N6O4: 449.1937, Found 449.1935.

reactant | (2-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carbonyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 0.18 mmol | C(C)(C)(C)OC(NCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1)=O | C28H32N6O6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | MeOH | 4 mL | CO | CH4O
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-9-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C1 | C23H24N6O4
